US05545742
Preparation of Methyl 2-[p-(5-acetamido-2-amino-4-fluoroanilino)phenoxy]propionate
Methyl 2-[p-(5-acetamido-4-fluoro-2-nitroanilino)phenoxy]propionate (8.2 g, 0.021 mol) is added to a mixture of iron dust (3.51 g, 0.063 mol) in a 5% acetic acid solution at 65° C. The reaction mixture is stirred at 65° C. for 2.5 hours, treated with additional iron dust (0.5 g), stirred at 65° C. for 30 minutes, cooled to room temperature and filtered through diatomaceous earth. The resultant filtrate is poured into water and extracted with ethyl acetate. The organic extracts are combined, washed sequentially with saturated sodium hydrogen carbonate solution and water, dried over anhydrous sodium sulfate and concentrated in vacuo to give the title product as a brown-black solid.

reactant | Methyl 2-[p-(5-acetamido-4-fluoro-2-nitroanilino)phenoxy]propionate | 0.021 mol, 8.2 g | C(C)(=O)NC=1C(=CC(=C(NC2=CC=C(OC(C(=O)OC)C)C=C2)C1)[N+](=O)[O-])F | C18H18FN3O6
catalyst | iron | 0.063 mol, 3.51 g | [Fe] | Fe
catalyst | iron | 0.5 g | [Fe] | Fe
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Methyl 2-[p-(5-acetamido-2-amino-4-fluoroanilino)phenoxy]propionate | C(C)(=O)NC=1C(=CC(=C(NC2=CC=C(OC(C(=O)OC)C)C=C2)C1)N)F | C18H20FN3O4
